US04026902
To a stirred suspension of 6.9g of p-aminobenzoic acid and 3.5 g of potassium carbonate in 60 ml of acetone was added 7.3 g of 3-methylisoxazole-5-carbonyl chloride. The mixture was stirred at room temperature for 1 hr. and then refluxed for 1 hr. The precipitate was filtered off and dissolved in water. The solution was acidified with concentrated hydrochloride acid. The precipitate was filtered off and washed with ethanol. There was obtained 9.1 g of N-(p-carboxyphenyl)-3-methylisoxazole-5-carboxamide. Melting point: above 300° C. Yield: 73.4%.

reactant | p-aminobenzoic acid | 6.9g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | potassium carbonate | 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methylisoxazole-5-carbonyl chloride | 7.3 g | CC1=NOC(=C1)C(=O)Cl | C5H4ClNO2
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | N-(p-carboxyphenyl)-3-methylisoxazole-5-carboxamide | 9.1 g, Yield: 73.4% | C(=O)(O)C1=CC=C(C=C1)NC(=O)C1=CC(=NO1)C | C12H10N2O4
